US04051153
Reduction of rac.-tert. butyl 3-tert. butoxy-2-methyl-propionate was carried out with lithium aluminum hydride using the procedure described in Example 2. The resulting rac.-3-tert. butoxy-2-methyl-1- propanol was obtained in 88% yield as a colorless liquid, b.p. 70°-72° C. (10 mm Hg.).

reactant | rac.-tert. butyl 3-tert. butoxy-2-methyl-propionate | C(C)(C)(C)OCC(C(=O)OC(C)(C)C)C | C12H24O3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | rac.-3-tert. butoxy-2-methyl-1- propanol | 88% yield | C(C)(C)(C)OCC(CO)C | C8H18O2
